US09399638B2
Intermediate-13: 5-(2-Chloro-3-methylpyridin-4-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one:
Step-3: 3-Methyl-4-(4-methyl-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)pyridine-1-oxide: To a stirred solution of step-2 intermediate (1.0 g, 5.23 mmol) in acetic acid (30 mL) was added hydrogen peroxide (0.321 mL, 10.46 mmol) drop-wise at RT and the reaction was heated to 80° C. and maintained for 12 h. The resulting mixture was cooled to RT and basified with solid potassium carbonate. The resulting slurry was diluted with dichloromethane (50 mL) and filtered. The filtrate was concentrated under vacuum to afford 800 mg (88%) of title compound as white solid. 1HNMR (400 MHz, DMSO-d6) δ 8.34 (s, 1H), 8.19 (d, J=5.0 Hz, 1H), 7.67 (d, J=5.0 Hz, 1H), 3.43 (s, 3H), 2.45 (s, 3H).

reactant | 3-Methyl-4-(4-methyl-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)pyridine-1-oxide | CC=1C=[N+](C=CC1C=1OC(N(N1)C)=O)[O-] | C9H9N3O3
reactant | hydrogen peroxide | 10.46 mmol, 0.321 mL | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 5-(2-Chloro-3-methylpyridin-4-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one | 800 mg, 88% | ClC1=NC=CC(=C1C)C1=NN(C(O1)=O)C | C9H8ClN3O2
